US07842688B2
a) tert-Butyl 3-{2-[2-(2-hydroxypropoxymethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
A solution of 0.34 g of tert-butyl 3-[2-(2-hydroxymethylphenoxy)ethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 10 ml of N,N-dimethylformamide and 0.39 ml of (S)-(−)-propylene oxide (plus 0.3 ml after 2.5 hours, 1.0 ml after 5 hours) and one drop of 1,4-diazabicyclo[2.2.2]octane is stirred at 100° C. over 26 hours. The reaction mixture is cooled, diluted with 1N HCl and extracted with ethyl acetate (2×). The combined organic phases are dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a yellow oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.38 (2:1 EtOAc-heptane); Rt=5.88.

reactant | tert-butyl 3-[2-(2-hydroxymethylphenoxy)ethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.34 g | OCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC=C1 | C36H47NO8
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | (S)-(−)-propylene oxide | 0.39 ml | C1[C@H](C)O1 | C3H6O
catalyst | 1,4-diazabicyclo[2.2.2]octane | one drop | N12CCN(CC1)CC2 | C6H12N2
solvent | HCl | 1N | Cl | ClH
product | tert-Butyl 3-{2-[2-(2-hydroxypropoxymethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | OC(COCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC=C1)C | C39H53NO9
